* C:\Users\timon\Desktop\Coding\EDI\SYNTH\SYNTHMANIA\ADSR\Simulations\ADSR.asc
R1 N007 0 100k
R5 N009 N008 100k
D1 N006 N007 D
D2 N001 N002 D
D3 N010 N001 D
R2 0 N008 47k
XU1 N005 N008 N006 opamp Aol=100K GBW=10Meg
XU2 N001 N007 N001 opamp Aol=100K GBW=10Meg
XU3 N004 N003 N004 opamp Aol=100K GBW=10Meg
R3 Out N004 1k
V2 N005 0 SINE(1 12 1K)
R4 N003 N002 100
R6 N003 N010 100
C1 N003 0 1µ
V1 N009 0 12
.model D D
.lib C:\Users\timon\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 7
.backanno
.end
